US04128548
Methyl 2,2-dimethyl-4-(p-methoxyphenyl)-3-(N-methyl-p-toluenesulphonamido)butyrate
A solution of 405 g of methyl 2,2-dimethyl-4-(p-methoxyphenyl)-3-(p-toluenesulphonamido)butyrate in 1800 ml of dry dimethylformamide is added to a mechanically stirred suspension of 52.8 g of sodium hydride in 320 ml of the same solvent. After the reaction mixture has been heated at 80° C. for 1 hour it is cooled when 93 ml of methyl iodide is added. After an additional period of heating (under reflux) the mixture, after being cooled, is poured into plenty of water. A white crystallisate separates. After filtration and drying it melts at 132°-134° C. Yield 96%.

reactant | methyl 2,2-dimethyl-4-(p-methoxyphenyl)-3-(p-toluenesulphonamido)butyrate | 405 g | CC(C(=O)OC)(C(CC1=CC=C(C=C1)OC)NS(=O)(=O)C1=CC=C(C=C1)C)C | C21H27NO5S
reactant | sodium hydride | 52.8 g | [H-].[Na+]
reactant | methyl iodide | 93 ml | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 1800 ml | CN(C=O)C | C3H7NO
product | Methyl 2,2-dimethyl-4-(p-methoxyphenyl)-3-(N-methyl-p-toluenesulphonamido)butyrate | Yield 96% | CC(C(=O)OC)(C(CC1=CC=C(C=C1)OC)N(S(=O)(=O)C1=CC=C(C=C1)C)C)C | C22H29NO5S
